US07727992B2
(7-Propionyl-5-pyridin-3-yl-1H-benzoimidazol-2-yl)-carbamic acid ethyl ester (1-44):
To a mixture of 2-methyl-2-thiopseudourea (109 mg, 0.39 mmol) and ethyl chloroformate (75 μL, 0.78 mmol) in water (2 mL) at 5° C. was added over 40 minutes a 6N aqueous NaOH solution until pH stabilized to 8. The pH was then adjusted to 5 with glacial AcOH. A suspension of 1-(2,3-diamino-5-pyridin-3-yl-phenyl)-propan-1-one (0.30 mmol) in water (5 mL) was subsequently added to the reaction mixture. The reaction was heated at 90° C. for 18 hours, cooled to ambient temperature, and diluted with water (10 mL) and EtOAc (20 mL). The phases were separated and the aqueous layer extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried (MgSO4), filtered, and the filtrate concentrated in vacuo. The crude residue was taken up in DMSO, purified by preparative HPLC, and by flash column chromatography (SiO2; CH2Cl2:MeOH, 1:0 to 19:1). The residue was then converted to the bis-HCl salt to afford the title compound as an off white solid (5.0 mg): HPLC (10 to 90% CH3CN, 8 min.): Rt=3.90 minutes; 1H NMR (CD3OD, 500 MHz) δ 9.39 (d, 1H), 9.07 (d, 1H), 8.93 (d, 1H), 8.48 (d, 1H), 8.28 (d, 1H), 8.25 (dd, 1H), 4.46 (q, 2H), 3.35 (q, 2H), 1.43 (t, 3H), 1.29 (t, 3H); MS (ES+) m/z (M++1) 339.1.

reactant | 2-methyl-2-thiopseudourea | 0.39 mmol, 109 mg | CSC(N)=N | C2H6N2S
reactant | ethyl chloroformate | 0.78 mmol, 75 μL | ClC(=O)OCC | C3H5ClO2
reactant | NaOH | 6N | [OH-].[Na+]
reactant | 1-(2,3-diamino-5-pyridin-3-yl-phenyl)-propan-1-one | 0.30 mmol | NC1=C(C=C(C=C1N)C=1C=NC=CC1)C(CC)=O | C14H15N3O
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | AcOH | CC(=O)O | C2H4O2
product | (7-Propionyl-5-pyridin-3-yl-1H-benzoimidazol-2-yl)-carbamic acid ethyl ester | C(C)OC(NC1=NC2=C(N1)C(=CC(=C2)C=2C=NC=CC2)C(CC)=O)=O | C18H18N4O3
